spice
* Differential Amplifier Circuit
* Voltage Sources
VCC 2 0 DC <VCC_value>
Vin1 1 0 DC <Vin1_value>
Vin2 3 0 DC <Vin2_value>
* Resistors
RC1 2 4 <RC_value>
RC2 6 5 <RC_value>
RE 4 5 <RE_value>
* Transistors (Assuming NPN, adjust for PNP if needed)
Q1 4 1 3 QMODEL_NPN
Q2 5 3 6 QMODEL_NPN
* Current Sources
Iee1 3 0 DC <IEE_value>
? Missing component
* Models (replace with actual model parameters)
.model QMODEL_NPN NPN(IS=<IS_value> BF=<BF_value> VAF=<VAF_value>)
* Define nodes
* 1: Vin1
* 2: VCC
* 3: GND (for IEE)
* 4: X (connection node of Q1 collector and RC1)
* 5: Y (connection node of Q2 collector and RC2)
* 6: Vout
.end
